* hitkit post processing done
************************************************************************
* auCdl Netlist:
* 
* Library Name:  FBIAS
* Top Cell Name: fbias_cur_ref2_layout
* View Name:     schematic
* Netlisted on:  May 26 20:54:36 2026
************************************************************************

*.EQUATION
*.LDD
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: FBIAS
* Cell Name:    fbias_cur_ref2_layout
* View Name:    schematic
************************************************************************

.SUBCKT fbias_cur_ref2_layout BIAS GNDA OUT1 OUT2 OUT3 OUT4 OUT5 OUT6 OUT7
+ OUT8 OUT9 OUT10 OUT11 VBG VDDA VRES
*.PININFO BIAS:B GNDA:B OUT1:B OUT2:B OUT3:B OUT4:B OUT5:B OUT6:B OUT7:B 
*.PININFO OUT8:B OUT9:B OUT10:B OUT11:B VBG:B VDDA:B VRES:B
MMN5<0> GNDA GNDA GNDA GNDA nmos4 W=28.5u L=1u M=1
MMN5<1> GNDA GNDA GNDA GNDA nmos4 M=1 W=28.5u L=1u
MMN5<2> GNDA GNDA GNDA GNDA nmos4 W=28.5u M=1 L=1u
MMN5<3> GNDA GNDA GNDA GNDA nmos4 W=28.5u M=1 L=1u
MMN3<0> BIAS BIAS GNDA GNDA nmos4 W=5u L=10u M=1
MMN3<1> BIAS BIAS GNDA GNDA nmos4 W=5u L=10u M=1
MMN2 GC BIAS GNDA GNDA nmos4 W=5u L=10u M=1
MMN0<0> D2 VBG S GNDA nmos4 L=1u W=28.5u M=1
MMN0<1> D2 VBG S GNDA nmos4 L=1u W=28.5u M=1
MMN0<2> D2 VBG S GNDA nmos4 M=1 W=28.5u L=1u
MMN0<3> D2 VBG S GNDA nmos4 M=1 W=28.5u L=1u
MMN0<4> D2 VBG S GNDA nmos4 M=1 W=28.5u L=1u
MMN0<5> D2 VBG S GNDA nmos4 L=1u W=28.5u M=1
MMN0<6> D2 VBG S GNDA nmos4 M=1 W=28.5u L=1u
MMN0<7> D2 VBG S GNDA nmos4 L=1u W=28.5u M=1
MMN0<8> D2 VBG S GNDA nmos4 L=1u W=28.5u M=1
MMN0<9> D2 VBG S GNDA nmos4 L=1u W=28.5u M=1
MMN0<10> D2 VBG S GNDA nmos4 L=1u W=28.5u M=1
MMN0<11> D2 VBG S GNDA nmos4 M=1 W=28.5u L=1u
MMN0<12> D2 VBG S GNDA nmos4 W=28.5u M=1 L=1u
MMN0<13> D2 VBG S GNDA nmos4 W=28.5u L=1u M=1
MMN6<0> BIAS BIAS BIAS GNDA nmos4 W=5u L=10u M=1
MMN6<1> BIAS BIAS BIAS GNDA nmos4 M=1 W=5u L=10u
MMN1<0> D1 VRES S GNDA nmos4 L=1u W=28.5u M=1
MMN1<1> D1 VRES S GNDA nmos4 W=28.5u L=1u M=1
MMN1<2> D1 VRES S GNDA nmos4 W=28.5u M=1 L=1u
MMN1<3> D1 VRES S GNDA nmos4 W=28.5u M=1 L=1u
MMN1<4> D1 VRES S GNDA nmos4 W=28.5u M=1 L=1u
MMN1<5> D1 VRES S GNDA nmos4 W=28.5u M=1 L=1u
MMN1<6> D1 VRES S GNDA nmos4 M=1 W=28.5u L=1u
MMN1<7> D1 VRES S GNDA nmos4 W=28.5u M=1 L=1u
MMN1<8> D1 VRES S GNDA nmos4 W=28.5u M=1 L=1u
MMN1<9> D1 VRES S GNDA nmos4 W=28.5u M=1 L=1u
MMN1<10> D1 VRES S GNDA nmos4 W=28.5u M=1 L=1u
MMN1<11> D1 VRES S GNDA nmos4 W=28.5u L=1u M=1
MMN1<12> D1 VRES S GNDA nmos4 W=28.5u L=1u M=1
MMN1<13> D1 VRES S GNDA nmos4 W=28.5u M=1 L=1u
MMN4<0> S BIAS GNDA GNDA nmos4 W=5u M=1 L=10u
MMN4<1> S BIAS GNDA GNDA nmos4 M=1 W=5u L=10u
MMP29<0> D2 D2 D2 VDDA pmos4 L=30u W=10u M=1
MMP29<1> D2 D2 D2 VDDA pmos4 W=10u L=30u M=1
MMP28<0> D1 D1 D1 VDDA pmos4 L=5u W=8.35u M=1
MMP28<1> D1 D1 D1 VDDA pmos4 W=8.35u M=1 L=5u
MMP28<2> D1 D1 D1 VDDA pmos4 L=5u W=8.35u M=1
MMP28<3> D1 D1 D1 VDDA pmos4 W=8.35u L=5u M=1
MMP1<0> C D2 VDDA VDDA pmos4 W=10u L=30u M=1
MMP1<1> C D2 VDDA VDDA pmos4 L=30u W=10u M=1
MMP1<2> C D2 VDDA VDDA pmos4 W=10u L=30u M=1
MMP1<3> C D2 VDDA VDDA pmos4 W=10u L=30u M=1
MMP1<4> C D2 VDDA VDDA pmos4 L=30u W=10u M=1
MMP1<5> C D2 VDDA VDDA pmos4 M=1 W=10u L=30u
MMP30<0> GC GC GC VDDA pmos4 M=1 W=5u L=2u
MMP30<1> GC GC GC VDDA pmos4 M=1 W=5u L=2u
MMP27 net14 D2 VDDA VDDA pmos4 W=10u L=30u M=1
MMP26 OUT11 GC net14 VDDA pmos4 W=5u L=2u M=1
MMP25 net13 D2 VDDA VDDA pmos4 W=10u L=30u M=1
MMP24 net12 D2 VDDA VDDA pmos4 M=1 W=10u L=30u
MMP23 net10 D2 VDDA VDDA pmos4 L=30u W=10u M=1
MMP22 OUT10 GC net13 VDDA pmos4 M=1 W=5u L=2u
MMP17 net9 D2 VDDA VDDA pmos4 M=1 W=10u L=30u
MMP16 OUT6 GC net9 VDDA pmos4 W=5u M=1 L=2u
MMP15 net8 D2 VDDA VDDA pmos4 M=1 W=10u L=30u
MMP14 OUT5 GC net8 VDDA pmos4 M=1 W=5u L=2u
MMP13 net7 D2 VDDA VDDA pmos4 M=1 W=10u L=30u
MMP12 OUT4 GC net7 VDDA pmos4 L=2u W=5u M=1
MMP11 net5 D2 VDDA VDDA pmos4 W=10u L=30u M=1
MMP19 net6 D2 VDDA VDDA pmos4 W=10u M=1 L=30u
MMP18 OUT7 GC net6 VDDA pmos4 W=5u M=1 L=2u
MMP21 OUT9 GC net12 VDDA pmos4 L=2u W=5u M=1
MMP20 OUT8 GC net10 VDDA pmos4 L=2u W=5u M=1
MMP8 OUT2 GC net4 VDDA pmos4 W=5u M=1 L=2u
MMP9 net4 D2 VDDA VDDA pmos4 L=30u W=10u M=1
MMP10 OUT3 GC net5 VDDA pmos4 M=1 W=5u L=2u
MMP7 OUT1 GC net1 VDDA pmos4 W=5u M=1 L=2u
MMP6 net1 D2 VDDA VDDA pmos4 M=1 W=10u L=30u
MMP5 VRES GC C VDDA pmos4 L=1u W=5u M=1
MMP3 GC GC net19 VDDA pmos4 L=2u W=5u M=1
MMP2 net19 net19 VDDA VDDA pmos4 M=1 W=5u L=1u
MMP4<0> D1 D1 VDDA VDDA pmos4 W=8.35u M=1 L=5u
MMP4<1> D1 D1 VDDA VDDA pmos4 W=8.35u L=5u M=1
MMP4<2> D1 D1 VDDA VDDA pmos4 M=1 W=8.35u L=5u
MMP4<3> D1 D1 VDDA VDDA pmos4 W=8.35u M=1 L=5u
MMP4<4> D1 D1 VDDA VDDA pmos4 M=1 W=8.35u L=5u
MMP4<5> D1 D1 VDDA VDDA pmos4 L=5u W=8.35u M=1
MMP0<0> D2 D1 VDDA VDDA pmos4 W=8.35u M=1 L=5u
MMP0<1> D2 D1 VDDA VDDA pmos4 W=8.35u M=1 L=5u
MMP0<2> D2 D1 VDDA VDDA pmos4 W=8.35u M=1 L=5u
MMP0<3> D2 D1 VDDA VDDA pmos4 W=8.35u L=5u M=1
MMP0<4> D2 D1 VDDA VDDA pmos4 W=8.35u M=1 L=5u
MMP0<5> D2 D1 VDDA VDDA pmos4 W=8.35u L=5u M=1
RR0 D2 net3 $[RPOLYH] $W=0.8u $L=30u
MC1<0> VRES net3 VRES GNDA CVAR L=650.00n W=990u
MC1<1> VRES net3 VRES GNDA CVAR W=990u L=650.00n
MC1<2> VRES net3 VRES GNDA CVAR W=990u L=650.00n
MC1<3> VRES net3 VRES GNDA CVAR W=990u L=650.00n
MC1<4> VRES net3 VRES GNDA CVAR W=990u L=650.00n
MC1<5> VRES net3 VRES GNDA CVAR W=990u L=650.00n
.ENDS

